Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Amoxicillin / hazelnut
 
Attending: ___
 
Chief Complaint:
headache, blurry vision
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
The patient is a ___ year old man with a past medical history
of hypertension who presents to the ED with 10 days of headache
associated with diplopia.
Patient reports that the headache initially began gradually on
___. He reports gradual onset of pain in the right
medial canthus, behind the right eye and the top of the head on
the right. He describes the pain as constant, usually a ___,
sometimes will dip to a ___ but has not gone away since the
start of the headache. He saw his PCP 3 days after the start of
the headache and was given Flonase, which did not significantly
help. ___ he went to see an ENT, who used a fiberoptic 
scope
but did not see any signs of inflammation. During this time, he
used ibuprofen ___ times in total, with some improvement in
symptoms but not complete resolution. 3 days prior to
presentation (___) patient reports that when 
he
woke up he was experiencing double vision. He describes the
images as offset to each other, with the right image slightly
higher than the left. This persisted for a few hours, and went
away by noon. The double vision again happened on ___ from
when he woke up to around noon. On the day of presentation, the
double vision occurred again, and resolved by noon time. It then
re-occurred while patient was in the ED, and was coming and
going. He noted that the double vision resolves when he closes
one eye or the other. It also goes away if he blinks a few 
times.
On re-evaluation, patient notes that the diplopia is persistent
despite slight reduction in his headache with pain medications 
in
the ED.
Notably, patient gets holocephalic headaches a few times a year
that last for ___ days, respond to NSAIDs or Tylenol. 
Patient denies any positional change to his headache. Denies
thunderclap. Denies loss of vision. Denies lightheadedness, or
confusion. Denies difficulty with producing or comprehending
speech. Denies loss of vision, blurred vision, vertigo, 
tinnitus,
hearing difficulty, dysarthria, or dysphagia. Denies focal 
muscle
weakness, numbness, parasthesia. Denies loss of sensation. 
Denies
bowel or bladder incontinence or retention. Denies difficulty
with gait.
Endorses tinnitus in both ears, which is a chronic problem. 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits. 
 
Past Medical History:
borderline HTN   
 
Social History:
___
Family History:
No family history of migraine. Father had a stroke at ___. 
 
Physical Exam:
Admission Physical Exam:
General: Awake, cooperative, NAD.  
HEENT: NC/AT, no scleral icterus noted
Neck: Supple. Reproduction of headache with palpation of the
occiput, but not with the trapezius bilaterally. 
Cardiac: good peripheral perfusion
Extremities: no distal edema
Skin: no rashes or lesions noted.  

Neurologic:  
-Mental Status: Alert, oriented, attentive. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Pt. was able to name both high and 
low
frequency objects. Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of neglect. ___ backwards 
intact.
Good knowledge of current events.   

CN  
II,III: VFF to confrontation, pupils 4mm->2mm bilaterally, fundi
normal (slightly limited view on the left eye) 
III,IV,VI: EOMI, right orbital fissure slight smaller than left
but no ptosis. No nystagmus. No skew deviation. 
V: sensation intact V1-V3 to LT  
VII: Right smile slightly asymmetric but with symmetric
activation, forehead wrinkle symmetric, strong eye closure
bilaterally, cheeks puff out with good strenght  
VIII: hears finger rub bilaterally  
IX,X: palate elevates symmetrically, uvula midline  
XI: SCM/trapezeii ___ bilaterally  
XII: tongue protrudes midline, no dysarthria  

Motor: Normal bulk and tone, no rigidity; no asterixis or
myoclonus. No pronator drift.  
  Delt Bi Tri WE FE Grip  IO  
  C5   C6 C7  C6 C7 C8/T1 T1  
L 5    ___  5  5     5
R 5    ___  5  5     5
 
  IP Quad ___ PF  
  L2 L3   L4-S1 L4 L5  S1/S2  
L 5  5     5    ___ 
R 5  5     5    ___

Reflex: No clonus  
  Bi Tri Bra Pat An Plantar  
  C5 C7  C6  L4  S1 CST  
L 2+ ___   ___ Flexor  
R 2+ ___   ___ Flexor 
Suprapatellars bilaterally without crossed adductors

-Sensory: No deficits to light touch. No extinction to DSS. 
 
-Coordination: No intention tremor, dysdiadochokinesia noted. No
dysmetria on FNF bilaterally.  

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. Able to walk in tandem without difficulty. Romberg 
absent.

Neurologic:  
-Mental Status: Alert, oriented, attentive. Language is fluent
with intact repetition and comprehension. Able to read without
difficulty. Speech was not dysarthric.  

CN  
II,III: VFF to confrontation, pupils 4mm->2mm bilaterally
III,IV,VI: EOMI
V: sensation intact V1-V3 to LT  
VII: Right smile slightly asymmetric, forehead wrinkle 
symmetric,
strong eye closure bilaterally 
VIII: hears finger rub bilaterally  
IX,X: palate elevates symmetrically, uvula midline  
XI: SCM/trapezeii ___ bilaterally  
XII: tongue protrudes midline, no dysarthria 

 
Pertinent Results:
ADMISSION LABS
---------------
___ 09:01PM BLOOD WBC-8.5 RBC-5.34 Hgb-16.6 Hct-48.3 MCV-90 
MCH-31.1 MCHC-34.4 RDW-11.6 RDWSD-38.1 Plt ___
___ 09:01PM BLOOD Neuts-49.0 ___ Monos-10.1 Eos-1.9 
Baso-0.9 Im ___ AbsNeut-4.17 AbsLymp-3.21 AbsMono-0.86* 
AbsEos-0.16 AbsBaso-0.08
___ 09:01PM BLOOD Glucose-98 UreaN-13 Creat-1.0 Na-143 
K-4.1 Cl-105 HCO3-26 AnGap-12
___ 09:01PM BLOOD Cholest-196
___ 09:01PM BLOOD Triglyc-84 HDL-43 CHOL/HD-4.6 
LDLcalc-136*
___ 09:01PM BLOOD TSH-1.7
___ 09:01PM BLOOD ANCA-NEGATIVE B
___ 09:01PM BLOOD ___ CRP-0.9 dsDNA-PND

MRI ORBITS
Unremarkable MRI of the orbits.

MRI/MRA 
1. No evidence for venous sinus thrombosis or other acute 
intracranial 
abnormalities.  No evidence for an intracranial mass. 
2. Normal MRA of the neck and circle of ___. 

CT HEAD
No acute intracranial process.

___ 01:11PM CEREBROSPINAL FLUID (CSF) TNC-2 RBC-0 Polys-0 
___ ___ 01:10PM CEREBROSPINAL FLUID (CSF) TotProt-54* 
Glucose-___ year old man with a past medical history
of hypertension who presents to the ED with 10 days of headache
associated with diplopia. 

Patient reports that the headache initially began gradually
on ___. He reports gradual onset of pain in the right
medial canthus, behind the right eye and the top of the head on
the right. He describes the pain as constant, usually a ___,
sometimes will dip to a ___ but has not gone away since the
start of the headache. He saw his PCP 3 days after the start of
the headache and was given Flonase, which did not significantly
help. ___ he went to see an ENT, who used a fiberoptic 
scope
but did not see any signs of inflammation. During this time, he
used ibuprofen ___ times in total, with some improvement in
symptoms but not complete resolution. 

3 days prior to presentation (___) patient
reports that when he woke up he was experiencing double vision. 
This persisted for a few hours, and went away by noon. The 
double vision again
happened on ___ from when he woke up to around noon. On the 
day of presentation, the double vision occurred again, and 
resolved by noon time. It then re-occurred while patient was in 
the ED, and was coming and
going. He noted that the double vision resolves when he closes
one eye or the other. It also goes away if he blinks a few 
times.
On re-evaluation, patient notes that the diplopia is persistent
despite slight reduction in his headache with pain medications 
in
the ED.

Patient notes that he has had previous
episodes of diplopia prior to this recent presentation but they
would last very short periods of time and would tend to resolve
quickly on concentration. At the time of examination the 
diplopia
was horizontal, increased on near fixation and on left gaze.

MRI brain, MRA of head/neck and MRI orbits were reassuring. 
Lumbar puncture was reassuring. Labs, including CBC, chemistry 
panel, TSH, CRP, ___, ANCA, were normal. 

Ophthalmology was consulted to evaluate the diplopia. On their 
exam no signs of EOM limitation. An intermittent exotropia that 
is
more prominent on near fixation was noted. When the angle of XT
increases particularly on near fixation patient notes an 
increase
in diplopia. No signs of orbital affection with normal IOP,
motility, and fundus exam ___.

Per ophthalmology, symptoms most likely intermittent exotropia. 

TRANSITIONAL ISSUES
--------------------
[] follow with neuro-ophthalmology at the ___ outpatient 
clinic by calling ___ in ___ weeks to further evaluate diplopia/ asteroid
hyalosis OS and decreased vision OS.
[] follow up with myasthenia antibody labs (still pending at 
time of discharge) as well as serum ACE
 

 
 
Medications on Admission:
1. Lisinopril 20 mg PO DAILY 
2. Citalopram 10 mg PO DAILY 
3. Ranitidine 150 mg PO DAILY 
4. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Citalopram 10 mg PO DAILY  
2.  Lisinopril 20 mg PO DAILY  
3.  Ranitidine 150 mg PO DAILY  
4.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
headache
diplopia
intermittent exotropia
ateroid hyalosis
decreased vision (L eye)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___, 

You presented to ___ hospital because you were having a 
headache and blurry vision.

While in the hospital, you had several MRI scans which were 
reassuring. You were also evaluated by our ophthalmology team; 
they recommended that you follow up as an outpatient. 

After you leave the hospital we recommend that you follow up 
with neuro-ophthalmology in clinic (see below for details).

We wish you the best,

Your ___ team
 
Followup Instructions:
___